US06136823
Synthesis of 1-(5-Amino-2,4-difluorophenyl)-8-chloro-6-fluoro-7-(2-hydroxy-1-methylethylamino)-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
1-(5-Amino-2,4-difluorophenyl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (200 mg) and 2-amino-1-propanol (200 mg) were added to pyridine (700 mg), and the mixture was stirred at 50° C. for 1.5 hours. Concentrated hydrochloric acid (200 mg) was added to the reaction mixture, and the resultant mixture was concentrated under reduced pressure. Ethanol (3 ml) was added to the residue, and deposits were collected by filtration and washed with ethanol and disopropyl ether in that order to obtain the title compound (167 mg) as a yellow powder.

reactant | 1-(5-Amino-2,4-difluorophenyl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 200 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)O)F)F | C16H7ClF4N2O3
reactant | 2-amino-1-propanol | 200 mg | NC(CO)C | C3H9NO
reactant | hydrochloric acid | 200 mg | Cl | ClH
solvent | pyridine | 700 mg | N1=CC=CC=C1 | C5H5N
product | 1-(5-Amino-2,4-difluorophenyl)-8-chloro-6-fluoro-7-(2-hydroxy-1-methylethylamino)-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 167 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)Cl)NC(CO)C)F)=O)C(=O)O)F)F | C19H15ClF3N3O4
